US07241785B2
A mixture of 3-hydroxy-1-phenyl-1H-pyrazole-5-carboxylic acid (29.55 g), benzyl bromide (35 ml), potassium carbonate (40.99 g) and N,N-dimethylformamide (300 ml) was stirred overnight at 90° C. The reaction mixture was poured into dilute hydrochloric acid and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and benzyl 3-benzyloxy-1-phenyl-1H-pyrazole-5-carboxylate (51.33 g, yield 92%) was obtained as a colorless oil from a fraction eluted with ethyl acetate-hexane (1:2, volume ratio).

reactant | 3-hydroxy-1-phenyl-1H-pyrazole-5-carboxylic acid | 29.55 g | OC1=NN(C(=C1)C(=O)O)C1=CC=CC=C1 | C10H8N2O3
reactant | benzyl bromide | 35 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 40.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | benzyl 3-benzyloxy-1-phenyl-1H-pyrazole-5-carboxylate | 51.33 g, yield 92% | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C24H20N2O3
